US08138179B2
j) 2-Chloro-N-(1-hydroxymethyl-5-methoxyindan-1-yl)acetamide
A solution of 60.0 mmol of (1-amino-5-methoxyindan-1-yl)methanol in 120 ml of acetonitrile and 40 ml of methanol is cooled to −10° C. and 69 mmol of triethylamine and, dropwise over the course of 1 hour, 80.5 mmol of chloroacetyl chloride are successively added. The reaction mixture is warmed to room temperature and stirred for 3 hours. The reaction mixture is poured into water and extracted with tert-butyl methyl ether. The combined organic phases are washed with brine, dried with sodium sulphate and evaporated. The title compound is obtained as a beige solid which is employed without further purification for the next stage. Rf=0.15 (ethyl acetate-heptane 1:1); Rt=3.01 (gradient I).

reactant | (1-amino-5-methoxyindan-1-yl)methanol | 60.0 mmol | NC1(CCC2=CC(=CC=C12)OC)CO | C11H15NO2
reactant | triethylamine | 69 mmol | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 80.5 mmol | ClCC(=O)Cl | C2H2Cl2O
reactant | water | O | H2O
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | methanol | 40 ml | CO | CH4O
product | 2-Chloro-N-(1-hydroxymethyl-5-methoxyindan-1-yl)acetamide | ClCC(=O)NC1(CCC2=CC(=CC=C12)OC)CO | C13H16ClNO3
